US04263291
A solution of ethyl 2-methoxyiminoacetoacetate (a mixture of syn and anti isomer) (226.6 g.) and acetohydrazide (78.5 g.) in ethanol (500 ml.) was stirred for 1.5 hours at ambient temperature. Precipitates were collected by filtration, washed with ethanol and ether and dried to give ethyl 2-methoxyimino-3-acetylhydrazonobutyrate (a mixture of syn and anti isomers) (155.7 g.), mp 190° to 191.5° C.

reactant | ethyl 2-methoxyiminoacetoacetate | CON=C(C(=O)OCC)C(=O)C | C7H11NO4
reactant | acetohydrazide | 78.5 g | C(C)(=O)NN | C2H6N2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 2-methoxyimino-3-acetylhydrazonobutyrate | CON=C(C(=O)OCC)C(C)=NNC(C)=O | C9H15N3O4
